US07074819B2
Step 5) Synthesis of 4-(9-methanesulfonyloxynonyl)-7-methoxy-3-(4-methoxy-phenyl)-3-methylthiochroman
4-(9-Hydroxynonyl)-7-methoxy-3-(4-methoxyphenyl)-3-methyl thiochroman (882 mg, 1.99 mmol) was dissolved in dichloromethane (60 ml) and triethylamine (1.38 ml, 9.96 mmol), to which was added methanesulfonylchloride (0.77 ml, 9.96 mmol). The reaction mixture was stirred at room temperature for 40 minutes. After the reaction was completed, water was added to the reaction solution, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was subjected to flash chromatography on silica gel (n-hexane:ethyl acetate=7:3) to give the title compound (0.74 g, yield 72%) as a colorless oil.

reactant | 4-(9-Hydroxynonyl)-7-methoxy-3-(4-methoxyphenyl)-3-methyl thiochroman | 1.99 mmol, 882 mg | OCCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C27H38O3S
reactant | triethylamine | 9.96 mmol, 1.38 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 9.96 mmol, 0.77 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(9-methanesulfonyloxynonyl)-7-methoxy-3-(4-methoxy-phenyl)-3-methylthiochroman | 0.74 g, yield 72% | CS(=O)(=O)OCCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C28H40O5S2
